US08278441B2
(7aS)-7a-(4-Fluoro-3-methoxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine
To a solution tert-butyl 7a-(4-fluoro-3-methoxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-ylcarbamate (1.04 g, 2.73 mmol) in CH2Cl2 (20 mL) is added TFA (5 mL) and the reaction is stirred at room temperature for 16 hr. The solvent is removed under reduced pressure to give a residue that is diluted with water and 5N NaOH. The aqueous layer is extracted four times with EtOAc. The organic layer is dried over Na2SO4 and the solvent is removed under reduced pressure. The crude product is purified with a 10 g SCX column using 4:1 CH2Cl2:MeOH and then 2:1 CH2Cl2: 7 N NH3 in MeOH to elute the product and give the title compound (0.756 g, 99%). ES/MS m/e: 281 (M+1).

reactant | tert-butyl 7a-(4-fluoro-3-methoxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-ylcarbamate | 2.73 mmol, 1.04 g | FC1=C(C=C(C=C1)C12N=C(SCC1CCC2)NC(OC(C)(C)C)=O)OC | C19H25FN2O3S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | NaOH | 5N | [OH-].[Na+]
product | (7aS)-7a-(4-Fluoro-3-methoxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-amine | 0.756 g, 99% | FC1=C(C=C(C=C1)[C@@]12N=C(SCC1CCC2)N)OC | C14H17FN2OS
